US06350749B1
To a solution of 1.6M butyllithium in hexane (32 ml) was added anhydrous tetrahydrofuran (100 ml), and then added dropwise 2,2,6,6-tetramethylpiperidine (8.4 ml) at −70° C. or less. To the mixture was added dropwise a solution of 1-chloro-4-fluorobenzene (6.5 g) in anhydrous tetrahydrofuran (20 ml), and the mixture was stirred at −70° C. or less for 2 hours. To the mixture was added dropwise a solution of dimethylformamide (6.5 g) in tetrahydrofuran (15 ml), and the mixture was allowed to stand to warm up to 0° C. The reaction solution was poured into ice-water and extracted with ethyl acetate. The organic layer was washed with water and saturated brine, and dried with magnesium sulfate. Under reduced pressure, the solvent was evaporated to give oil of 5-chloro-2-fluorobenzaldehyde (5.1 g).

reactant | butyllithium | 1.6M | C(CCC)[Li]
reactant | 2,2,6,6-tetramethylpiperidine | 8.4 ml | CC1(NC(CCC1)(C)C)C | C9H19N
reactant | 1-chloro-4-fluorobenzene | 6.5 g | ClC1=CC=C(C=C1)F | C6H4ClF
reactant | dimethylformamide | 6.5 g | CN(C=O)C | C3H7NO
solvent | hexane | 32 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 5-chloro-2-fluorobenzaldehyde | 5.1 g | ClC=1C=CC(=C(C=O)C1)F | C7H4ClFO
